US04045439
A mixture of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate (0.932 g.), 5,5-dimethylcyclohexan-1,3-dione (2.24 g.) and p-toluenesulphonic acid (0.4 g.) in ethanol (100 ml.) was heated under reflux on a steam bath for 16 hours. The solution was evaporated in vacuo and the residue was applied to a silica column (100 g. Kieselgel 60). Elution with a mixture of 15% v/v ethanol and 85% v/v chloroform, and evaporation of the appropriate fractions gave crystalline ethyl 6-[(5,5-dimethylcyclohexen-3-one-yl)amino]-4-hydroxycinnolin-3-yl carboxylate, m.p. 274° C.

reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate | 0.932 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C11H11N3O3
reactant | 5,5-dimethylcyclohexan-1,3-dione | 2.24 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | p-toluenesulphonic acid | 0.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 6-[(5,5-dimethylcyclohexen-3-one-yl)amino]-4-hydroxycinnolin-3-yl carboxylate | CC1(CC(C=C(C1)NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O)=O)C | C19H21N3O4
